US06809108B1
(3S)-1,1-diethyl-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)piperidinium chloride
To 22 mg of (2R)-N-{((3S)-1-ethyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide, 1 ml of ethyl iodide was added at room temperature, followed by 2 hours' stirring at 70° C. The resultant reaction liquid was diluted with chloroform and the solvent was distilled off under reduced pressure. The resultant residue was dissolved in ultrapure water 0.6 ml/methanol 0.1 ml and the solution was developed on reversed phase medium-pressure liquid chromatograpy [ODS-AQ 120-S50 (YMC)]. Purification and anion exchange were conducted by pouring 20 ml of saturated brine, washing with 150 ml of ultrapure water and eluting the title compound with methanol/water=1/1, to provide 21 mg of the title compound as a white solid.

reactant | (2R)-N-{((3S)-1-ethyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | 22 mg | C(C)N1C[C@@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C39H48N4O4
reactant | ethyl iodide | 1 ml | C(C)I | C2H5I
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (3S)-1,1-diethyl-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)piperidinium chloride | 21 mg | [Cl-].C(C)[N+]1(C[C@@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC | InChI=1S/C41H52N4O4.ClH/c1-3-45(4-2)25-15-16-31(30-45)28-42-39(48)36-23-14-24-43(36)40(49)37-26-35(46)29-44(37)38(47)27-41(32-17-8-5-9-18-32,33-19-10-6-11-20-33)34-21-12-7-13-22-34;/h5-13,17-22,31,35-37,46H,3-4,14-16,23-30H2,1-2H3;1H/t31-,35+,36+,37-;/m0./s1
